US07622471B2
4-Chloropyridine-2-carbonitrile
The general procedure of Referential Example 15 was repeated through use of 4-chloropyridine-N-oxide (6.00 g) and trimethylsilyl cyanide (17.5 mL), to thereby give the title compound as a solid (5.89 g, 92%).

reactant | 4-chloropyridine-N-oxide | 6.00 g | ClC1=CC=[N+](C=C1)[O-] | C5H4ClNO
reactant | trimethylsilyl cyanide | 17.5 mL | C[Si](C)(C)C#N | C4H9NSi
product | 4-Chloropyridine-2-carbonitrile | 5.89 g, 92% | ClC1=CC(=NC=C1)C#N | C6H3ClN2
